US06316482B1
To a mixture of 4-[(2-carboxyindol-4-yl)-carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (60 mg), N,N-dimethylamine hydrochloride (7.7 mg) and 1-hydroxybenzotriazole (14.5 mg) in N,N-dimethylformamide (3.0 ml) was added a solution of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (20.6 mg) in N,N-dimethylformamide (1.0 ml) and the mixture was stirred at ambient temperature for 4 hours. The resulting mixture was diluted with ethyl acetate and the organic layer was washed successively with saturated aqueous sodium bicarbonate solution and brine. Drying, filtering and removal of solvents afforded 4-[(2-dimethylaminocarbonylindol-4-yl)-carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (60 mg) as a yellow amorphous powder.

reactant | 4-[(2-carboxyindol-4-yl)-carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 60 mg | C(=O)(O)C=1NC2=CC=CC(=C2C1)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C37H43N5O7
reactant | N,N-dimethylamine hydrochloride | 7.7 mg | Cl.CNC
reactant | 1-hydroxybenzotriazole | 14.5 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 20.6 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(2-dimethylaminocarbonylindol-4-yl)-carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 60 mg | CN(C(=O)C=1NC2=CC=CC(=C2C1)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC)C | C39H48N6O6
